US09260427B2
Prepared using General Procedure 10. Into a degassed solution of (S)-2-(4-(tert-butyl)benzamido)-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propanoate INT-13 (1.0 g, 2.0 mmol), Na2HCO3 (420 mg, 3.9 mmol), and 5-bromo-2-iodopyrimidine (615 mg, 2.2 mmol) in 2/2/1 ACN/THF/H2O was added Pd(dppf)Cl2 (140 mg, 0.2 mmol). The reaction mixture was heated at 110° C. for 1 h in a microwave reactor. The reaction mixture was concentrated, dissolved in DCM and washed with H2O. The organic layer was dried over Na2SO4, concentrated, and purified by chromatography EA/hexanes) to provide 630 mg (58%) of tert-butyl (S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(4-(tert-butyl)benzamido)propanoate INT-14. LCMS-ESI (m/z) calculated for C28H32BrN4O3: 538.5; no m/z observed, tR=4.66 min (Method 1). 1H NMR (400 MHz, CDCl3) δ 8.84-8.78 (s, 2H), 8.31 (t, J=7.0 Hz, 2H), 7.75-7.64 (m, 2H), 7.46-7.38 (m, 2H), 7.30 (dd, J=12.9, 7.1 Hz, 2H), 6.65 (d, J=7.2 Hz, 1H), 5.10-4.94 (m, 1H), 3.43-3.20 (m, 2H), 1.45 (s, 9H), 1.32 (s, 9H).

reactant | (S)-2-(4-(tert-butyl)benzamido)-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)propanoate | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)[O-])CC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1
reactant | 5-bromo-2-iodopyrimidine | 2.2 mmol, 615 mg | BrC=1C=NC(=NC1)I | C4H2BrIN2
catalyst | Pd(dppf)Cl2 | 0.2 mmol, 140 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ACN THF H2O | C(C)#N.C1CCOC1.O
product | tert-butyl (S)-3-(4-(5-bromopyrimidin-2-yl)phenyl)-2-(4-(tert-butyl)benzamido)propanoate | 630 mg, 58% | BrC=1C=NC(=NC1)C1=CC=C(C=C1)C[C@@H](C(=O)OC(C)(C)C)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C28H32BrN3O3
